US05446042
Preparation of 1-[(4-methoxyphenyl)carbonylmethyl]-4-(4H,6H-1,3,4-thiadiazin-5-one-2-yl)pyridinium bromide (Intermediate 1)
2-(4-Pyridyl)-4H,6H-1,3,4-thiadiazin-5-one (1.88 g, 9.74 mmol) and 4'-methoxyphenacyl bromide (2.23 g, 9.74 mmol) were dissolved in absolute ethanol (40 ml) and stirred at room temperature for one day. The resultingprecipitate was collected by filtration and washed with absolute ethanol toobtain the titled compound (3.84g) as yellow powder.

reactant | 2-(4-Pyridyl)-4H,6H-1,3,4-thiadiazin-5-one | 9.74 mmol, 1.88 g | N1=CC=C(C=C1)C=1SCC(NN1)=O | C8H7N3OS
reactant | 4'-methoxyphenacyl bromide | 9.74 mmol, 2.23 g | COC1=CC=C(C=C1)C(=O)CBr | C9H9BrO2
solvent | ethanol | 40 ml | C(C)O | C2H6O
product | 1-[(4-methoxyphenyl)carbonylmethyl]-4-(4H,6H-1,3,4-thiadiazin-5-one-2-yl)pyridinium bromide | [Br-].COC1=CC=C(C=C1)C(=O)C[N+]1=CC=C(C=C1)C=1SCC(NN1)=O | InChI=1S/C17H15N3O3S.BrH/c1-23-14-4-2-12(3-5-14)15(21)10-20-8-6-13(7-9-20)17-19-18-16(22)11-24-17;/h2-9H,10-11H2,1H3;1H
